US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-3-[3,4-(methylenedioxy)phenyl]thiophene-2-sulfonamide was prepared in the same manner as described in Example 1 by reaction of 2-chlorosulfonyl-3-[3,4-(methylenedioxy)phenyl]thiophene with 5-amino-4-bromo-3-methylisoxazole resulting in a 60% yield, m.p. 183°-186° C.

reactant | 2-chlorosulfonyl-3-[3,4-(methylenedioxy)phenyl]thiophene | ClS(=O)(=O)C=1SC=CC1C1=CC2=C(C=C1)OCO2 | C11H7ClO4S2
reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-3-[3,4-(methylenedioxy)phenyl]thiophene-2-sulfonamide | 60% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC=CC1C1=CC2=C(C=C1)OCO2)C | C15H11BrN2O5S2
